US06509328B1
[2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic Acid tert.-Butyl Ester
Prepared from [2-amino-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G34) (163 mg, 0.5 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) (126 mg, 0.55 mmol) according to the general procedure K. Obtained as a brown solid (143 mg).

reactant | [2-amino-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 163 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=C(C=CC=C1)F)N)=O | C19H19FN2O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.55 mmol, 126 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | [2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic Acid tert.-Butyl Ester | 143 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C29H24FN3O4
